US05324804
I.2. 3,4-Bis(2-tetrahydrofuranyloxy)styrene
To 38.1 g (0.28 mol) of 3,4-dihydroxystyrene and 118 g (1.68 mol) of 2,3-dihydrofuran are added 5 drops of concentrated hydrochloric acid, whereupon an exothermic reaction ensues. The solution is stirred for 4 h at 50° C. and then poured on to a mixture of ice-water and diethyl ether. After two extractions with diethyl ether, the organic phase is washed three times at 0° C. with 1N NaOH and dried over Na2SO4. The solvent is removed by evaporation to leave a clear liquid which is purified by distillation in a bulb tube (155° C./0.02 torr) or by column chromatography (silica gel, hexane/ethyl acetate 4:1).

reactant | 3,4-dihydroxystyrene | 0.28 mol, 38.1 g | OC=1C=C(C=C)C=CC1O | C8H8O2
reactant | 2,3-dihydrofuran | 1.68 mol, 118 g | O1CCC=C1 | C4H6O
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,4-Bis(2-tetrahydrofuranyloxy)styrene | O1C(CCC1)OC=1C=C(C=C)C=CC1OC1OCCC1 | C16H20O4
